US05422027
(2) The preparation of a hydrogenated product from the compound obtained in (1) above and the Friedel-Crafts reactant of 1,2,4-trimethylbenzene
In a 2 liter four neck flask equipped with a thermometer and a hydrogen chloride gas trap, 500 ml of 1,2,4-trimethylbenzene and 150 ml of titanium tetrachloride were placed and 150 ml of 2-(1-hydroxyethyl) bicyclo [2.2.2] octane obtained in (1) above was dropped therein over 30 minutes with stirring at room temperature. The so obtained mixture was maintained at 30° C. in an ice-cold water bath and further stirred for 30 minutes. After the evolution of hydrogen chloride gas was stopped, the content of the flask was poured into 1 liter of ice-cold water to stop the reaction. The mixture was stirred well in the ice-cold water, and an organic layer produced therein was washed twice with 200 ml of 2N NaOH aqueous solution, followed by washing twice with 200 ml of water. The so treated organic layer was dried with anhydrous MgSO4 and distilled to obtain 180 g of a fraction having a boiling point of 150 to 160° C./2 mmHg. The analysis with NMR and MS resulted in a finding that the so obtained reaction product was 1-(2-bicyclo [2.2.2] octyl)-1-(trimethylphenyl)-ethane. Said reaction product was placed in a 1 liter autoclave, 20 g of 5% ruthenium/carbon catalyst and 300 ml of methylcyclohexane as the solvent were added and the resulting mixture was hydrogenated under the conditions of a hydrogen pressure of 80 kg/cm2G, a reaction temperature of 200° C. and a reaction time of 6 hours. The NMR analysis showed that the degree of hydrogenation was 99%. The so obtained reaction product was analyzed with NMR, IR and MS, resulting in a finding that it was 1-(2-bicyclo [2.2.2] octyl)-1-(trimethylcyclohexyl)-ethane. Further, the traction coefficient of the obtained reaction product was determined in a temperature range of 40° C. to 140° C. and the results are shown in FIG. 1. The graphs of 1H-NMR, 13C-NMR and MS of the reaction product are respectively shown in FIGS. 4 to 6.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-(2-bicyclo [2.2.2] octyl)-1-(trimethylphenyl)-ethane | C12C(CC(CC1)CC2)C(C)C2=C(C(=C(C=C2)C)C)C | C19H28
reactant | hydrogen | [H][H] | H2
reactant | 1-(2-bicyclo [2.2.2] octyl)-1-(trimethylcyclohexyl)-ethane | C12C(CC(CC1)CC2)C(C)C2(C(CCCC2)(C)C)C | C19H34
catalyst | ruthenium/carbon | 20 g | [Ru] | Ru
solvent | methylcyclohexane | 300 ml | CC1CCCCC1 | C7H14
product | 1,2,4-trimethylbenzene | CC1=C(C=C(C=C1)C)C | C9H12
